US09084794B2
a) 7-bromo-3-methylquinoline
A 1 L round bottom flask fitted with a stirbar, a Dean-Stark trap for solvents heavier than water, and a condenser was charged with 2-amino-4-bromobenzaldehyde (20 g, 100 mmol), sodium sulfate (71.0 g, 500 mmol), and p-toluenesulfonic acid monohydrate (4.75 g, 25.00 mmol). The solids were taken up in anhydrous chloroform (498 mL) and the suspension treated with 1-ethoxyprop-1-ene (14.39 mL, 130 mmol). The mixture was then heated to reflux with stirring overnight. The reaction mixture was cooled to room temperature and transferred to a 2 L separatory funnel. The solution was extracted twice with 200 mL saturated aq sodium bicarbonate and once with 200 mL water. The organic layer was isolated and the aqueous layers were combined and re-extracted twice with an additional 100 mL dichloromethane. The organics were then pooled, dried over sodium sulfate, filtered, and concentrated to a residue. The residue was purified by flash chromatography (0.2-1.9% methanol:dichloromethane). Fractions containing the desired material were pooled and concentrated to afford the title compound as a bright orange solid (5.603 g, 25.2 mmol, 25% yield). MS(ES)+ m/e 221.8 [M+H]+.

reactant | 2-amino-4-bromobenzaldehyde | 100 mmol, 20 g | NC1=C(C=O)C=CC(=C1)Br | C7H6BrNO
reactant | sodium sulfate | 500 mmol, 71.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 25.00 mmol, 4.75 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1-ethoxyprop-1-ene | 130 mmol, 14.39 mL | C(C)OC=CC | C5H10O
solvent | chloroform | 498 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 7-bromo-3-methylquinoline | 25.2 mmol, 5.603 g, 25% yield | BrC1=CC=C2C=C(C=NC2=C1)C | C10H8BrN
